US08492376B2
trans-8-Chloro-5-isopropyl-[4-(3-fluoro-pyridin-2-yl)-cyclohexyl]-5,6-dihydro-4H-2,3,5,10b-tetraaza-benzo[e]azulene
After stirring a solution of trans-8-chloro-1-[4-(3-fluoro-pyridin-2-yl)-cyclohexyl]-5,6-dihydro-4H-2,3,5,10b-tetraaza-benzo[e]azulene (50.0 mg, 0.126 mmol), acetone (0.019 ml, 0.251 mmol) and acetic acid (0.014 ml, 0.25 mmol) in 1,2-dichloroethane (1.3 ml) at room temperature for 5 h, sodium triacetoxyborohydride (58.6 mg, 0.276 mmol) was added. Stirring for further 20 h was followed by quenching with methanol (1 ml) and N-ethyldiisopropylamine (0.044 ml, 0.25 mmol). The reaction mixture was stirred for 30 minutes and concentrated in vacuo. Preparative RP-HPLC with water (0.05% formic acid)/methanol as eluent gave the title compound (40 mg, 72%) as white solid. MS m/e: 440 ([M+H]+)

reactant | trans-8-chloro-1-[4-(3-fluoro-pyridin-2-yl)-cyclohexyl]-5,6-dihydro-4H-2,3,5,10b-tetraaza-benzo[e]azulene | 0.126 mmol, 50.0 mg | ClC1=CC2=C(N3C(=NN=C3CNC2)[C@@H]2CC[C@H](CC2)C2=NC=CC=C2F)C=C1 | C21H21ClFN5
reactant | acetone | 0.251 mmol, 0.019 ml | CC(=O)C | C3H6O
reactant | acetic acid | 0.25 mmol, 0.014 ml | C(C)(=O)O | C2H4O2
reactant | sodium triacetoxyborohydride | 0.276 mmol, 58.6 mg | C(C)(=O)O[BH-](OC(C)=O)OC(C)=O.[Na+]
reactant | N-ethyldiisopropylamine | 0.25 mmol, 0.044 ml | C(C)N(C(C)C)C(C)C | C8H19N
solvent | 1,2-dichloroethane | 1.3 ml | ClCCCl | C2H4Cl2
solvent | methanol | 1 ml | CO | CH4O
product | trans-8-Chloro-5-isopropyl-[4-(3-fluoro-pyridin-2-yl)-cyclohexyl]-5,6-dihydro-4H-2,3,5,10b-tetraaza-benzo[e]azulene | 40 mg, 72% | ClC1=CC2=C(N3C(=NN=C3CN(C2)C(C)C)[C@@H]2CC[C@H](CC2)C2=NC=CC=C2F)C=C1 | C24H27ClFN5
